US03984459
d. 1-Chloro-2-methyl-6-phenoxy-hexane
A solution of 60 g of thionyl chloride in 50 ml of CHCl3 was added dropwise to 100 g of 1-Hydroxy-2-methyl-6-phenoxy-hexane in 200 ml of CHCl3 and 0.5 ml of DMF. The solution was refluxed until the development of the gas was finished and then poured onto ice. The aqueous phase was extracted twice with CHCl3 and the combined organic phases were washed with water and finally with a saturated NaHCO3 -solution, dried with MgSO4, evaporated and the residue was distilled off.

reactant | thionyl chloride | 60 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-Hydroxy-2-methyl-6-phenoxy-hexane | 100 g | OCC(CCCCOC1=CC=CC=C1)C | C13H20O2
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 1-Chloro-2-methyl-6-phenoxy-hexane | ClCC(CCCCOC1=CC=CC=C1)C | C13H19ClO
